US08008505B2
62.2 [rac]-3-Chloro-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-benzoic acid
In analogy to the procedure described in example 60.2, [rac]-3-chloro-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-benzoic acid methyl ester was treated with aqueous lithium hydroxide solution in THF to give the title compound as off-white solid. MS: m/e=526.0 [M+H+].

reactant | [rac]-3-chloro-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O)Cl)=O | C29H31Cl2N3O3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | [rac]-3-Chloro-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-benzoic acid | ClC=1C=C(C(=O)O)C=CC1NC(C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C28H29Cl2N3O3
